US05538998
0.50 g of N-(tert-butyl)propiolamide was dissolved in 15 ml of methanol, to which 0.17 g of sodium hydroxide was added. 0.64 g of bromine was added dropwise to the mixture while stirring at a room temperature. 50 ml of 5%-aqueous solution of sodium thiosulfate was added to the reaction solution to extract with dichlormethane. The extracted solution was dried and concentrated. The residue was then purified by column chromatography (silica gel, eluent: ethyl acetate/hexane =1/5). Subsequently, 0.55 g of N-(tert-butyl)-3-bromopropiolamide was obtained by means of recrystallization from dichlormethane/hexane.

reactant | N-(tert-butyl)propiolamide | 0.50 g | C(C)(C)(C)NC(C#C)=O | C7H11NO
reactant | sodium hydroxide | 0.17 g | [OH-].[Na+]
reactant | bromine | 0.64 g | BrBr | Br2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | N-(tert-butyl)-3-bromopropiolamide | 0.55 g | C(C)(C)(C)NC(C#CBr)=O | C7H10BrNO
